R10 (OINN vcm) resistor r=2*R1*(1+2*R2/R1)*beta
R8 (vcm OINP) resistor r=2*R1*(1+2*R2/R1)*beta
R46 (BINN vop) resistor r=R1
R45 (vin BINN) resistor r=R1
R50 (vop vcm) resistor r=R1
R49 (BINN OINP) resistor r=R2
R48 (BINP OINN) resistor r=R2
R51 (vcm von) resistor r=R1
R63 (BINP vip) resistor r=R1
R47 (BINP von) resistor r=R1
C59 (von OINN) capacitor c=663f
C58 (vop OINP) capacitor c=663f
C57 (0 BINP) capacitor c=5.31p
C56 (0 BINN) capacitor c=5.31p
C24 (vop vcm) capacitor c=CL
C23 (vcm von) capacitor c=CL
I16 (0 IBOTA) isource dc=IB1 type=dc
I17 (0 IBOTA2) isource dc=IB2 type=dc
I9 (VBIASP hvdd) isource dc=200u type=dc
I34 (net16 net9 vop von) diffstbprobe
M72 (VBIASP vcm net5 hvdd) pch_ulvt_mac l=30n w=2.4u multi=1 nf=2
IPRB0 (net10 net16) iprobe
M78 (net5 VBIASP hvdd hvdd) pch_mac l=100n w=12.0u multi=1 nf=4
V5 (net15 0) vsource dc=VICM type=dc
V9 (vcm 0) vsource dc=VCM type=dc
V4 (hvdd 0) vsource dc=VDD type=dc
I32 (hvdd 0 IBOTA IBOTA2 0 vcm OINN OINP net10 net9) HS_BIQUAD_OTA
V12 (net15 vin) vsource mag=500m type=sine sinedc=vdc ampl=amp freq=f
V13 (vip net15) vsource mag=500m type=sine sinedc=vdc ampl=amp freq=f
